US05358940
Diphenyl-cis-9-octadecenyloxysilanol is prepared under Mitsunobu conditions from 2 g (9.25 mmol) of diphenylsilanediol, 2.08 ml (4.62 mmol) of cis-9-octadecen-1-ol, 2.45 g (9.25 mmol) of triphenylphosphine and 1.88 ml (9.25 mmol) of azodicarboxylic acid diisopropyl ester in 40 ml of tetrahydrofuran analogously to Step 1.3, Variant a.

reactant | diphenylsilanediol | 9.25 mmol, 2 g | C1(=CC=CC=C1)[Si](O)(O)C1=CC=CC=C1 | C12H12O2Si
reactant | cis-9-octadecen-1-ol | 4.62 mmol, 2.08 ml | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | triphenylphosphine | 9.25 mmol, 2.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diisopropyl ester | 9.25 mmol, 1.88 ml | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Diphenyl-cis-9-octadecenyloxysilanol | C1(=CC=CC=C1)[Si](O)(OCCCCCCCC\C=C/CCCCCCCC)C1=CC=CC=C1 | C30H46O2Si
